US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-methylpyridine-2-carboxamide
Using N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.611 mmol), 3-methylpyridine-2-carboxylic acid (126 mg, 0.917 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (187 mg, 0.978 mmol), 1-hydroxybenzotriazole (133 mg, 0.988 mmol), triethylamine (0.14 mL, 1.039 mmol) and N,N-dimethylformamide (6.0 mL), and by a reaction in the same manner as in Example 187, the title compound (128 mg, 47%) was obtained as colorless crystals.

reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.611 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
reactant | 3-methylpyridine-2-carboxylic acid | 0.917 mmol, 126 mg | CC=1C(=NC=CC1)C(=O)O | C7H7NO2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.978 mmol, 187 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.988 mmol, 133 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.039 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-methylpyridine-2-carboxamide | 128 mg, 47% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=NC=CC=C2C)F)C1 | C23H19FN6O3
